US09340527B2
ethyl 1-((6-((4-(tert-butyl)cyclohexyl)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate
Into a 100 mL round bottom flask was added ethyl 1-((6-((4-(tert-butyl)cyclohexylidene)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate (200 mg, 0.45 mmol), Pd/C (20%, 20 mg) and THF (30 mL). The reaction mixture was flushed 3 times with hydrogen gas and stirred for 48 h under H2 atmosphere. The reaction mixture was filtered and the filtrate was concentrated in vacuum to afford the desired compound ethyl 1-((6-((4-(tert-butyl)cyclohexyl)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate as purple oil (150 mg, yield: 30%). ESI-MS (M+1)+: 450.3.

reactant | ethyl 1-((6-((4-(tert-butyl)cyclohexylidene)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 0.45 mmol, 200 mg | C(C)(C)(C)C1CCC(CC1)=CC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C30H41NO2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 1-((6-((4-(tert-butyl)cyclohexyl)methyl)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 150 mg, yield: 30% | C(C)(C)(C)C1CCC(CC1)CC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C30H43NO2
